US04387230
1-Benzyl-1,6-dihydro-5-(m-chlorophenyl)-3[2H]-pyridone
A solution of m-chlorophenyl magnesium bromide (85 mM) in ether (50 ml) was treated dropwise with a solution of 1-benzyl-1,6-dihydro-5-methoxy-3-[2H]pyridone (16.3 g, 75 mM) in THF (75 ml) and stirred 1 hour. The reaction mixture was poured onto cold 2 N hydrochloric acid (150 ml) and stirred 30 min. Removal of the resulting precipitate by filtration, followed by air-drying and recrystallisation from ethanol gave the title compound as the hydrochloride hydrate (14.7 g) m.p. 143°-5°.

reactant | m-chlorophenyl magnesium bromide | 85 mM | ClC=1C=C(C=CC1)[Mg]Br
reactant | 1-benzyl-1,6-dihydro-5-methoxy-3-[2H]pyridone | 75 mM, 16.3 g | C(C1=CC=CC=C1)N1CC(C=C(C1)OC)=O | C13H15NO2
reactant | hydrochloric acid | 2 N, 150 ml | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-1,6-dihydro-5-(m-chlorophenyl)-3[2H]-pyridone | 14.7 g | C(C1=CC=CC=C1)N1CC(C=C(C1)C1=CC(=CC=C1)Cl)=O | C18H16ClNO
